US07786044B2
26. Preparation of 4-tert-Butoxycarbonylamino-3-chloro-6-(4-chlorophenyl)-5-fluoropyridine-2-carboxylic acid methyl ester
4-Amino-3-chloro-6-(4-chlorophenyl)-5-fluoropyridine-2-carboxylic acid methyl ester (3 g, 9.5 mmol) was dissolved in dichloromethane (50 mL) and di-tert-butyl dicarbonate (4.6 g, 21 mmol) was added at ambient temperature. After 1 h, the reaction mixture was concentrated and the product was purified by flash chromatography on silica gel (ethyl acetate/hexane gradient). This bis-protected intermediate (3.2 g, 6.2 mmol) was then dissolved in dichloromethane (25 mL) and trifluoroacetic acid (1.42 g, 12.4 mmol) was added. The reaction mixture was stirred for 4 h at ambient temperature then concentrated under vacuum. The product was purified by flash chromatography on silica gel to yield the title compound (2 g, 4.82 mmol, 50.7% yield for the two steps) as a white solid: 1H NMR (CDCl3) δ 7.91 (m, 2H), 7.43 (m, 2H), 6.48 (br s, 1H), 4.0 (s, 3H), 1.55 (s, 9H).

reactant | 4-Amino-3-chloro-6-(4-chlorophenyl)-5-fluoropyridine-2-carboxylic acid methyl ester | 9.5 mmol, 3 g | COC(=O)C1=NC(=C(C(=C1Cl)N)F)C1=CC=C(C=C1)Cl | C13H9Cl2FN2O2
reactant | di-tert-butyl dicarbonate | 21 mmol, 4.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | trifluoroacetic acid | 12.4 mmol, 1.42 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-tert-Butoxycarbonylamino-3-chloro-6-(4-chlorophenyl)-5-fluoropyridine-2-carboxylic acid methyl ester | 50.7% yield | COC(=O)C1=NC(=C(C(=C1Cl)NC(=O)OC(C)(C)C)F)C1=CC=C(C=C1)Cl | C18H17Cl2FN2O4
